US05882628
g. 1,3,5-Triiodo-2,4,6-tris(1-acetoxyprop-en-3-yl)benzene
1,3,5-Triiodo-2,4,6-tris(1-hydroxyprop-en-3-yl)benzene (560 mg, 0.90 mmol) was dissolved in a mixture of pyridine (8 ml) and acetic anhydride (8 ml). After stirring at ambient temperature for 16 hours, the solvent was evaporated and the residue was purified by preparative HPLC (RP-18, CH3CN: H2O 80:20). Yield 310 mg (46%).

reactant | 1,3,5-Triiodo-2,4,6-tris(1-hydroxyprop-en-3-yl)benzene | 0.90 mmol, 560 mg | IC1=C(C(=C(C(=C1CC=CO)I)CC=CO)I)CC=CO | C15H15I3O3
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1,3,5-Triiodo-2,4,6-tris(1-acetoxyprop-en-3-yl)benzene | IC1=C(C(=C(C(=C1CC=COC(C)=O)I)CC=COC(C)=O)I)CC=COC(C)=O | C21H21I3O6
